US04179277
9.1 g (0.1 mol) of thiosemicarbazide and 40.4 g (0.4 mol) of triethylamine were stirred in 200 ml of ethanol until a clear solution had formed. 25.4 g (0.1 mol) of 4,5-dichloro-2-trichloromethyl-imidazole were added to this solution incrementally at 0°-5° C., while stirring. The mixture was stirred for a further 1 hour with cooling, for 1 hour at room temperature and for 1 hour at 50° C. After cooling, the amine-hydrochloride was filtered off and the filtrate was evaporated in vacuo. The residue was treated with water, the mixture was acidified with hydrochloric acid and the product was filtered off, washed with water and dried. 18 g (76.5% of theory) of 2-(4,5-dichloro-imidazol-2-yl)-5-amino-1,3,4-thiadiazole were obtained. Melting point: 147° C. (with decomposition) (from ethyl acetate/ligroin).

reactant | thiosemicarbazide | 0.1 mol, 9.1 g | NNC(=S)N | CH5N3S
reactant | triethylamine | 0.4 mol, 40.4 g | C(C)N(CC)CC | C6H15N
reactant | 4,5-dichloro-2-trichloromethyl-imidazole | 0.1 mol, 25.4 g | ClC=1N=C(NC1Cl)C(Cl)(Cl)Cl | C4HCl5N2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(4,5-dichloro-imidazol-2-yl)-5-amino-1,3,4-thiadiazole | 18 g, 76.5% | ClC=1N=C(NC1Cl)C=1SC(=NN1)N | C5H3Cl2N5S
